US05344955
To a 250 ml flask is charged 6.6 gm (0.1 mole) of malononitrile, 8.9 gm (0.1 mole) of sodium dicyanamide and 40 ml of N-methylpyrrolidone. The stirred mixture is heated to 145° C. and held for one hour, then cooled to about room temperature. Then 150 ml of 2-butanol is added and the stirred mixture is cooled in an ice bath. The solids are filtered, washed with 2-butanol and dried. There is obtained 10.7 gm of 1-amino-1-cyanamido-2,2-dicyanoethylene, sodium salt, 82.5% pure, or a 57.0% yield.

reactant | malononitrile | 0.1 mole, 6.6 gm | C(CC#N)#N | C3H2N2
reactant | sodium dicyanamide | 0.1 mole, 8.9 gm | [N-](C#N)C#N.[Na+]
reactant | N-methylpyrrolidone | 40 ml | CN1C(CCC1)=O | C5H9NO
solvent | 2-butanol | 150 ml | CC(CC)O | C4H10O
product | 1-amino-1-cyanamido-2,2-dicyanoethylene | 10.7 gm, 57.0% yield | NC(=C(C#N)C#N)NC#N | C5H3N5
